US06043248
Treatment of 4-(N,N-diethylaminomethyl)pyridine (2.0 g, 12.20 mmol) with ammonium persulfate (5.56 g, 24.4 g, 2.0 equiv.), methanol (22 ml), water (11 ml) and concentrated H2SO4 (2.76 g, 28.18 mmol, 2.31 equiv.) as described for Cpd #214 gave 0.697 g (29%) of 4-(N,N-diethylaminomethyl)-2-hydroxymethylpyridine.

reactant | 4-(N,N-diethylaminomethyl)pyridine | 12.20 mmol, 2.0 g | C(C)N(CC)CC1=CC=NC=C1 | C10H16N2
reactant | ammonium persulfate | 5.56 g, 2.0 equiv. | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | methanol | 22 ml | CO | CH4O
reactant | H2SO4 | 28.18 mmol, 2.76 g, 2.31 equiv. | OS(=O)(=O)O | H2O4S
solvent | water | 11 ml | O | H2O
product | 4-(N,N-diethylaminomethyl)-2-hydroxymethylpyridine | 0.697 g, 29% | C(C)N(CC)CC1=CC(=NC=C1)CO | C11H18N2O
